US03951993
Upon boiling a solution of 7.6 g of 3-nitrobenzaldehyde and 14.5 g of 3-amino-3-ethoxyacrylic acid methyl ester in 40 ml of alcohol for 6 hours, 2-amino-4-(3-nitrophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid dimethyl ester of melting point 163°C (isopropanol) is obtained.

reactant | 3-nitrobenzaldehyde | 7.6 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3-amino-3-ethoxyacrylic acid methyl ester | 14.5 g | COC(C=C(OCC)N)=O | C6H11NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-amino-4-(3-nitrophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid dimethyl ester | COC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)OCC)N | C17H19N3O7
